US06831106B1
c) 3-Methoxymethoxy-2-methylbenzene-1-boronic acid
16.2 g (70 mmol) of 1-bromo-3-methoxymethoxy-2-methylbenzene are dissolved in 200 mL of anhydrous THF and the mixture is cooled to −78° C. 33.7 mL (84 mmol) of 2.5M butyllithium are added slowly and the mixture is then maintained at −78° C. for 1 hour. 19.4 mL (84 mmol) of triisopropyl borate are then added dropwise over a period of 15 minutes. The medium is stirred for 30 minutes at the same temperature and then poured into 300 mL of 1N hydrochloric acid. After the usual treatment, the whitish solid residue obtained is rinsed with heptane and then dried under reduced pressure. A flaky white solid is obtained (m=11.8 g; Y=86%).

reactant | 1-bromo-3-methoxymethoxy-2-methylbenzene | 70 mmol, 16.2 g | BrC1=C(C(=CC=C1)OCOC)C | C9H11BrO2
reactant | butyllithium | 84 mmol, 2.5M, 33.7 mL | C(CCC)[Li]
reactant | triisopropyl borate | 84 mmol, 19.4 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N, 300 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-Methoxymethoxy-2-methylbenzene-1-boronic acid | COCOC=1C(=C(C=CC1)B(O)O)C | C9H13BO4
